US08304539B2
3-fluoro-4-(morpholine-4-carbonyl)phenylboronic acid
A solution of 4-borono-2-fluorobenzoic acid (1.000 g, 5.44 mmol), morpholine (0.951 mL, 10.87 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (2.103 g, 5.53 mmol) in DMF (10 mL) was stirred at room temperature for 16 h and quenched with 1 N HCl (20 mL). Attempted extraction with EtOAc did not remove all of the product from aqueous phase. The two phases were combined, concentrated and purified by reverse phase HPLC (Sunfire S10 30×250 mm column, 30-45% solvent B gradient) to give the expected product as white solid (1.2385 g, 90% yield). MS (ES+) m/z: 254 (M+H); LC retention time: 2.06 min (analytical HPLC Method A).

reactant | 4-borono-2-fluorobenzoic acid | 5.44 mmol, 1.000 g | B(O)(O)C1=CC(=C(C(=O)O)C=C1)F | C7H6BFO4
reactant | morpholine | 10.87 mmol, 0.951 mL | N1CCOCC1 | C4H9NO
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 5.53 mmol, 2.103 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-fluoro-4-(morpholine-4-carbonyl)phenylboronic acid | 1.2385 g, 90% yield | FC=1C=C(C=CC1C(=O)N1CCOCC1)B(O)O | C11H13BFNO4
